US06001839
Sodium hydride (0.28 g of 60% dispersion in mineral oil) was added to a solution of 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine (1.96 g) in dry N,N-dimethylformamide (40 ml) with stirring under nitrogen at ambient temperature. The mixture was then stirred for 30 minutes and allyl bromide (0.62 ml) was added dropwise. After stirring for 1 hour at ambient temperature more allyl bromide (0.20 ml) was added and the mixture was left stirring at ambient temperature for 18 hours. The mixture was added to water with stirring and the solid which precipitated was collected by filtration and dried to give 4-chloro-5-iodo-7-(prop-1-en-3-yl)-7H-pyrrolo[2,3-d]-pyrimidine which was used directly in b).

reactant | Sodium hydride | 0.28 g | [H-].[Na+]
reactant | 4-chloro-5-iodo-7H-pyrrolo[2,3-d]pyrimidine | 1.96 g | ClC=1C2=C(N=CN1)NC=C2I | C6H3ClIN3
reactant | allyl bromide | 0.62 ml | C(C=C)Br | C3H5Br
reactant | allyl bromide | 0.20 ml | C(C=C)Br | C3H5Br
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 4-chloro-5-iodo-7-(prop-1-en-3-yl)-7H-pyrrolo[2,3-d]-pyrimidine | ClC=1C2=C(N=CN1)N(C=C2I)CC=C | C9H7ClIN3
